US07414076B2
Preparation of 2-(tert-butyl)amino-1-ethanesulfonic Acid (Compound DU)
A solution of 2-bromoethanesulfonic acid, sodium salt (4.2 g, 20 mmol) in water (total 12 mL) was added over 6 hours to a 420C solution of t-butylamine (10 mL, 94 mmol) in a mixture of water (10 mL) and 1,4-dioxane (10 mL). The mixture was stirred at 42° for 18 hours. The mixture was then heated to 60° C. for 24 h. By proton NMR, 30% of elimination product (vinylsulfonic acid) was observed. The mixture was concentrated to dryness and treated with ethanol at refluxing temperature. The solid material was collected (crop 1). The mother liquor was concentrated to dryness and the solid was again treated with ethanol at refluxing temperature, and the solid material was collected (crop 2). Both crops of the solid material were dissolved in water, and the resultant aqueous solutions passed in sequence through a Dowex 50 W X 8 ion-exchange column (100 g resin). The fractions containing the title compound were collected and concentrated to dryness. The solid material obtained was recrystallized from a mixture of ethanol (20 mL) and water (2 mL). The crystals were collected by filtration, dried in a vacuum oven at 60° C. for 18 hours. Compound DU was obtained as fine white needles (860 mg, 24% yield). 1H NMR (500 MHz, D2O) δ 1.16 (s, 9H), 3.02 (t, J=6.8 Hz, 2H), 3.19 (t, J=6.8 Hz, 2H). 13C NMR (125 MHz, D2O) δ 24.8, 37.3, 47.0, 57.8. ES-MS 182 (M+1)

reactant | 2-bromoethanesulfonic acid | BrCCS(=O)(=O)O | C2H5BrO3S
reactant | sodium | 20 mmol, 4.2 g | [Na] | Na
reactant | t-butylamine | 94 mmol, 10 mL | C(C)(C)(C)N | C4H11N
reactant | vinylsulfonic acid | C(=C)S(=O)(=O)O | C2H4O3S
solvent | water | 12 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(tert-butyl)amino-1-ethanesulfonic Acid | 860 mg, 24% yield | C(C)(C)(C)NCCS(=O)(=O)O | C6H15NO3S
